US07807709B2
a. 4-Ethyl-3-hydroxy-benzoic acid
To a solution of 4-ethyl-3-(3-methoxy-propoxy)-benzoic acid (6.44 g, 27.03 mmol) in CH2Cl2 (150 mL) at −78° C. is slowly added BBr3 (9 mL, 93.41 mmol). The reaction mixture is allowed to reach RT and stirred for 3 hours, then poured into ice/water and filtrated to afford the title product as a white solid. TLC, Rf (CH2Cl2/MeOH 95:5)=0.2.

reactant | 4-ethyl-3-(3-methoxy-propoxy)-benzoic acid | 27.03 mmol, 6.44 g | C(C)C1=C(C=C(C(=O)O)C=C1)OCCCOC | C13H18O4
reactant | BBr3 | 93.41 mmol, 9 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Ethyl-3-hydroxy-benzoic acid | C(C)C1=C(C=C(C(=O)O)C=C1)O | C9H10O3
